US07544835B2
a) Methyl 1-(2-benzyloxyethyl)-1H-indol-4-carboxylate
2.75 g of Methyl 1H-indol-4-carboxylate was dissolved in 10 ml of N,N-dimethylformamide, and 0.7 g of 60% sodium hydride was added under ice-cooling. The reaction solution was stirred at room temperature for 30 minutes, treated with 2.5 ml of benzyl 2-bromoethyl ether, and stirred at room temperature for a further 2 hours. The reaction solution was cooled with ice, treated with water and ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was subjected to silica gel column chromatography (8% ethyl acetate-hexane), to give 3.6 g of the title compound.

reactant | Methyl 1H-indol-4-carboxylate | 2.75 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | benzyl 2-bromoethyl ether | 2.5 ml | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 1-(2-benzyloxyethyl)-1H-indol-4-carboxylate | 3.6 g | C(C1=CC=CC=C1)OCCN1C=CC=2C(=CC=CC12)C(=O)OC | C19H19NO3
